US07423030B2
17.1. 3,5-dimethoxy-2-(phenylacetyl)benzoic acid
This compound is synthesized by reacting methyl 3,5-dimethoxybenzoate with phenylacetyl chloride via the Friedel-Crafts reaction, followed by saponification of the ester obtained, according to the method described in 2.1. It is used in crude form in the following reaction.

reactant | methyl 3,5-dimethoxybenzoate | COC=1C=C(C(=O)OC)C=C(C1)OC | C10H12O4
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 3,5-dimethoxy-2-(phenylacetyl)benzoic acid | COC=1C(=C(C(=O)O)C=C(C1)OC)C(CC1=CC=CC=C1)=O | C17H16O5
